US04908386
N-[[4-[4-[[6-[[2-Hydroxy-2-(2-phenyl-4H-1,3-dioxino[5,4-b]pyridin-6-yl]ethyl](phenylmethyl)amino]hexyl]oxy]-1-butynyl]phenyl]methyl]pentanamide
A solution of 6-oxiranyl-2-phenyl-4H-1,3-dioxino[5,4-b]pyridine (0.712 g) and N-[[4-[4-[[6-[(phenylmethyl)amino]hexyl]oxy]-1-butynyl]phenyl]methyl]pentanamide (1.25 g) in methanol (10 ml) was refluxed for 1l h. The methanol was evaporated to leave an oil which was purified by FCC eluting with ER to give the title compound as a yellow oil (1.02 g), t.l.c. ER:triethylamine (100:1) Rf 0.2

reactant | 6-oxiranyl-2-phenyl-4H-1,3-dioxino[5,4-b]pyridine | 0.712 g | O1C(C1)C1=CC=C2C(=N1)COC(O2)C2=CC=CC=C2 | C15H13NO3
reactant | N-[[4-[4-[[6-[(phenylmethyl)amino]hexyl]oxy]-1-butynyl]phenyl]methyl]pentanamide | 1.25 g | C1(=CC=CC=C1)CNCCCCCCOCCC#CC1=CC=C(C=C1)CNC(CCCC)=O | C29H40N2O2
solvent | methanol | 10 ml | CO | CH4O
product | N-[[4-[4-[[6-[[2-Hydroxy-2-(2-phenyl-4H-1,3-dioxino[5,4-b]pyridin-6-yl]ethyl](phenylmethyl)amino]hexyl]oxy]-1-butynyl]phenyl]methyl]pentanamide | 1.02 g | OC(CN(CCCCCCOCCC#CC1=CC=C(C=C1)CNC(CCCC)=O)CC1=CC=CC=C1)C1=CC=C2C(=N1)COC(O2)C2=CC=CC=C2 | C44H53N3O5
